US07491716B2
6-methyl-8-bromoimidazo[1,2-a]pyridine
Add chloroacetaldehyde (2.51 g, 32.08 mmol) to a solution of 2-amino-3-bromo-5-methylpyridine (2.0 g, 10.69 mmol) in acetonitrile (200 ml). Reflux the reaction for 4 hours and then cool. Filter the reaction mixture and partition the white solid between saturated aqueous sodium bicarbonate (300 ml) and ethyl acetate. Separate the organic layer, wash with saturated aqueous sodium bicarbonate, dry over magnesium sulfate, and concentrated under reduced pressure to give the title compound as a tan solid.

reactant | chloroacetaldehyde | 32.08 mmol, 2.51 g | ClCC=O | C2H3ClO
reactant | 2-amino-3-bromo-5-methylpyridine | 10.69 mmol, 2.0 g | NC1=NC=C(C=C1Br)C | C6H7BrN2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 6-methyl-8-bromoimidazo[1,2-a]pyridine | CC=1C=C(C=2N(C1)C=CN2)Br | C8H7BrN2
